US05767116
Borane-dimethyl sulphide complex (15 ml; 10M in dimethyl sulphide) was added dropwise at 15°-20° C., under nitrogen, to a stirred suspension of 1-(4-methoxyphenyl) piperidine-4-carboxamide (10 g) in tetrahydrofuran (95 ml). The mixture was heated under reflux for 4 hours then allowed to stand at ambient temperature for 16 hours. Ice water was added to destroy excess reducing agent then the mixture was acidified by the addition of hydrochloric acid (5M) and washed with ether (200 ml). The aqueous layer was basified by the addition of concentrated aqueous sodium hydroxide solution then the product was extracted into ether (3×250 ml). The combined extracts were dried over magnesium sulphate and the solvent removed in vacuo. The residue was purified by flash chromatography over silica using a 9:1 mixture of dichloromethane and industrial methylated spirit as eluant. The solvents were removed in vacuo from the appropriate fractions to give 1-[1-(4-methoxyphenyl)-piperid-4-yl]methylamine as an oil (0.5 g).

reactant | Borane dimethyl sulphide | 10M, 15 ml | B.CSC
reactant | 1-(4-methoxyphenyl) piperidine-4-carboxamide | 10 g | COC1=CC=C(C=C1)N1CCC(CC1)C(=O)N | C13H18N2O2
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
product | 1-[1-(4-methoxyphenyl)-piperid-4-yl]methylamine | 0.5 g | COC1=CC=C(C=C1)N1CCC(CC1)CN | C13H20N2O
